US08080566B1
A 100-mL 3-necked round-bottomed flask was charged with a solution of 1-((9-ethyl-9H-carbazol-3-yl)methyl)piperidine-3-carboxylic acid (1 g, 2.98 mmol, 1.00 equiv) in DMF (50 mL), followed by HNMe2.HCl (723 mg, 8.93 mmol, 3.00 equiv) and triethylamine (1.2 g, 11.88 mmol, 4.00 equiv) at 0° C. To this mixture was added HATU (1.13 g, 2.97 mmol, 1.00 equiv) at 0° C. The resulting mixture was stirred at room temperature for 16 hours. The reaction progress was monitored by TLC (DCM:MeOH=10:1). Upon completion, the resulting mixture was diluted with brine (30 mL) and extracted with ethyl acetate (3×50 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered off and concentrated on a rotary evaporator. The residue was purified by a silica gel column chromatography eluted with dichloromethane/methanol (100:1) affording 1-((9-ethyl-9H-carbazol-3-yl)methyl)-N,N-dimethylpiperidine-3-carboxamide as a white solid (0.8 g, 74%). LCMS: [M+H]+: 364. 1H NMR (CDCl3, 300 MHz) δ 8.17 (t, 2H), 7.44 (m, 4H), 7.30 (t, 1H), 4.35 (m, 4H), 3.28 (m, 4H), 3.06 (s, 3H), 2.94 (d, 3H), 2.35 (s, 2H), 1.85 (m, 3H), 1.42 (t, 3H).

reactant | 1-((9-ethyl-9H-carbazol-3-yl)methyl)piperidine-3-carboxylic acid | 2.98 mmol, 1 g, 1.00 equiv | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)CN1CC(CCC1)C(=O)O | C21H24N2O2
reactant | HNMe2.HCl | 8.93 mmol, 723 mg, 3.00 equiv | N(C)C.Cl
reactant | triethylamine | 11.88 mmol, 1.2 g, 4.00 equiv | C(C)N(CC)CC | C6H15N
reactant | HATU | 2.97 mmol, 1.13 g, 1.00 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | brine | 30 mL | [Cl-].[Na+].O
solvent | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-((9-ethyl-9H-carbazol-3-yl)methyl)-N,N-dimethylpiperidine-3-carboxamide | 0.8 g, 74% | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)CN1CC(CCC1)C(=O)N(C)C | C23H29N3O
